US08022222B2
Using the method of Example 3, Step B, 2-chloro-4-(3-methoxyphenoxy)pyridine (2.95 g, 12.5 mmol), 4-methylthiazol-2-amine (28.5 mL, 11.4 mmol), potassium phosphate (2.66 g, 12.5 mmol), Pd2(dba)3 (0.261 g, 0.285 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.181 g, 0.313 mmol) were reacted in toluene (30 mL) and water (8 mL) to provide 4-(3-methoxyphenoxy)-N-(4-methylthiazol-2-yl)pyridin-2-amine (3.44 g, 88.7% yield) as yellow solid. 1H NMR (CDCl3) δ 8.14 (d, 1H), 7.26 (t, 1H), 6.76 (m, 1H), 6.63 (m, 1H), 6.58 (t, 1H), 6.46 (dd, 1H), 6.27 (m, 2H), 3.75 (s, 3H), 2.17 (s, 3H); Mass spectrum (esi) m/z=314 (100) (M+H).

reactant | 2-chloro-4-(3-methoxyphenoxy)pyridine | 12.5 mmol, 2.95 g | ClC1=NC=CC(=C1)OC1=CC(=CC=C1)OC | C12H10ClNO2
reactant | 4-methylthiazol-2-amine | 11.4 mmol, 28.5 mL | CC=1N=C(SC1)N | C4H6N2S
reactant | potassium phosphate | 12.5 mmol, 2.66 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 8 mL | O | H2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.285 mmol, 0.261 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.313 mmol, 0.181 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 4-(3-methoxyphenoxy)-N-(4-methylthiazol-2-yl)pyridin-2-amine | 3.44 g, 88.7% yield | COC=1C=C(OC2=CC(=NC=C2)NC=2SC=C(N2)C)C=CC1 | C16H15N3O2S
